US07049307B2
N-(2-{3-[3-(hydroxymethyl)piperidin-1-yl]propyl}-2H-indazol-6-yl)-N′-(4-phenoxyphenyl)urea
To a solution of 1-[2-(3-oxopropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea (20 mg, 0.05 mmol) in Methanol containing 2% v/v AcOH (1 mL) was added 3-piperidinemethanol (10 mg, 0.10 mmol) and MS-CNBH3 (52 mg, 0.065 mmol). The reaction was shaken vigorously at 40 C for 18h. The reaction was filtered, eluting with additional Methanol (3×0.5 mL). The sample was directly purified by RP-HPLC to afford the titled product. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.15 (m, 1 H), 1.65 (m, 2 H), 1.83 (m, 2 H), 2.30 (m, 2 H), 2.63 (m, 1 H), 2.77 (m, 1 H), 3.10 (m, 2 H), 3.24 (dd, J=10.68, 6.61 Hz, 1 H), 3.36 (m, 1 H), 3.44 (m, 2 H), 4.47 (t, J=6.27 Hz, 2 H), 6.97 (m, 5 H), 7.09 (m, 1 H), 7.36 (m, 2 H), 7.49 (m, 2 H), 7.62 (m, 1 H), 7.90 (s, 1 H), 8.29 (s, 1 H), 8.76 (m, 2 H) and 9.16 (s, 1 H); MS (ESI) 500 (M+H)+.

reactant | 1-[2-(3-oxopropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea | 0.05 mmol, 20 mg | O=CCCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C23H20N4O3
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
reactant | 3-piperidinemethanol | 0.10 mmol, 10 mg | N1CC(CCC1)CO | C6H13NO
solvent | Methanol | CO | CH4O
product | N-(2-{3-[3-(hydroxymethyl)piperidin-1-yl]propyl}-2H-indazol-6-yl)-N′-(4-phenoxyphenyl)urea | OCC1CN(CCC1)CCCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C29H33N5O3
